US07615642B2
Step B: 1-{[2-(1,1-dimethylpropyl)-1-(tetrahydro-2H-pyran-4-ylmethyl)-1H-benzimidazol-5-yl]sulfonyl}-1H-pyrrole-3-carbaldehyde
Following the same procedure in Example 29, using 2-(1,1-dimethylpropyl)-1-(tetrahydro-2H-pyran-4-ylmethyl)-1H-benzimidazole-5-sulfonyl chloride (0.66 g, 1.7 mmol), 1H-pyrrole-3-carbaldehyde (0.14 g, 1.4 mmol) and sodium hydride (0.29 g, 60%, 7.2 mmol) in THF (15 mL). The crude product was purified by MPLC using Hex/EtOAc (1:1) on silica gel to give 0.45 g (71%) of a white solid as the title compound. MS (ESI) (M+H)+=443.93

reactant | 2-(1,1-dimethylpropyl)-1-(tetrahydro-2H-pyran-4-ylmethyl)-1H-benzimidazole-5-sulfonyl chloride | 1.7 mmol, 0.66 g | CC(CC)(C)C1=NC2=C(N1CC1CCOCC1)C=CC(=C2)S(=O)(=O)Cl | C18H25ClN2O3S
reactant | 1H-pyrrole-3-carbaldehyde | 1.4 mmol, 0.14 g | N1C=C(C=C1)C=O | C5H5NO
reactant | sodium hydride | 7.2 mmol, 0.29 g | [H-].[Na+]
solvent | THF | 15 mL | C1CCOC1 | C4H8O
product | 1-{[2-(1,1-dimethylpropyl)-1-(tetrahydro-2H-pyran-4-ylmethyl)-1H-benzimidazol-5-yl]sulfonyl}-1H-pyrrole-3-carbaldehyde | 0.45 g, 71% | CC(CC)(C)C1=NC2=C(N1CC1CCOCC1)C=CC(=C2)S(=O)(=O)N2C=C(C=C2)C=O | C23H29N3O4S
